US04918074
A solution of 6-ethoxycarbonyl-7-hydroxyiminomethyl-5-(3-nitrophenyl)-5,8-dihydroimidazo[1,2-a]pyrimidine (1.25 g), 0.29 g of sodium acetate and 0.4 ml of acetic anhydride in 15 ml of acetic acid is stirred with heating at 80°-90° C. for 30 minutes. The reaction solution is poured into water and precipitated crystals are collected by filtration. Recrystallization from a mixture of chloroform and ethanol gives 0.5 g of 7-cyano-6-ethoxycarbonyl-5-(3-nitrophenyl)-5,8-dihydroimidazo[1,2-a]pyrimidine, melting at 260°-261° C. with decomposition.

reactant | 6-ethoxycarbonyl-7-hydroxyiminomethyl-5-(3-nitrophenyl)-5,8-dihydroimidazo[1,2-a]pyrimidine | 1.25 g | C(C)OC(=O)C1=C(NC=2N(C1C1=CC(=CC=C1)[N+](=O)[O-])C=CN2)C=NO | C16H15N5O5
reactant | sodium acetate | 0.29 g | C(C)(=O)[O-].[Na+]
reactant | acetic anhydride | 0.4 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | O | H2O
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 7-cyano-6-ethoxycarbonyl-5-(3-nitrophenyl)-5,8-dihydroimidazo[1,2-a]pyrimidine | 0.5 g | C(#N)C=1NC=2N(C(C1C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-])C=CN2 | C16H13N5O4
